US08703797B2
2-Chloro-4-isopropylquinoline:
4-Isopropylquinolin-2-ol (1.95 g, 10.43 mmol) and 1.14 mL (1.2 eq) of POCl3 in toluene were reacted as outlined in Scheme 1 above to yield 1.8 g (84%) of the desired title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.40 (d, J=6.74 Hz, 6 H) 3.71 (quin, J=6.81 Hz, 1 H) 7.28 (s, 1 H) 7.48-7.63 (m, 1 H) 7.65-7.78 (m, 1 H) 7.98-8.10 (m, 2 H).

reactant | 4-Isopropylquinolin-2-ol | 10.43 mmol, 1.95 g | C(C)(C)C1=CC(=NC2=CC=CC=C12)O | C12H13NO
reactant | POCl3 | 1.14 mL, 1.2 eq | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-isopropylquinoline | 1.8 g, 84% | ClC1=NC2=CC=CC=C2C(=C1)C(C)C | C12H12ClN
